US06864265B2
Preparation of 4-(4-Methoxyphenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
Reaction of 4-(4-methoxyphenyl)-1H-imidazole (610 mg, 3.51 mmol), NaH (60%, 136 mg, 3.40 mmol), and SEMCl (656 uL, 3.71 mmol) followed by column chromatography on silica gel (hexane/EtOAC 1:1) gave the title compound (654 mg, 64%) as a yellow solid. 1H NMR (300 MHz, CDCl3) major isomer: δ0.00 (s, 9H), 0.93 (t, 2H, J=7.5 Hz), 3.52 (t, 2H, J=7.5 Hz), 3.83 (s, 3H), 5.28 (s, 2H), 6.94 (d, 2H, J=9.0 Hz), 7.24 (s, 1H), 7.60 (s, 1H), 7.72 (d, 2H, J=9.0 Hz); minor isomer: δ0.00 (s, 9H), 0.92 (t, 2H, J=7.5 Hz), 3.54 (t, 2H, J=7.5 Hz), 3.85 (s, 3H), 5.23 (s, 2H), 6.98 (d, 2H, J=9.0 Hz), 7.09 (s, 1H), 7.47 (d, 2H, J=9.0 Hz), 7.65 (s, 1H). ES-MS m/z 305 (M+H).

reactant | 4-(4-methoxyphenyl)-1H-imidazole | 3.51 mmol, 610 mg | COC1=CC=C(C=C1)C=1N=CNC1 | C10H10N2O
reactant | NaH | 3.40 mmol, 136 mg | [H-].[Na+]
reactant | SEMCl | 3.71 mmol, 656 uL | C[Si](C)(C)CCOCCl | C6H15ClOSi
product | 4-(4-Methoxyphenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 654 mg, 64% | COC1=CC=C(C=C1)C=1N=CN(C1)COCC[Si](C)(C)C | C16H24N2O2Si
